US09145380B2
2-(2,3-Dichloro-benzenesulfonylamino)-5-hydroxy-benzenesulfonamide
To a solution of 2-(2,3-dichloro-benzenesulfonylamino)-5-methoxy-benzenesulfonamide (4.8 g, 11.68 mmol) in DCM (200 mL) at −20° C., BBr3 (1M in DCM, 60 mL, 60 mmol) was added dropwise over 30 minutes. The reaction mixture was allowed to warm to RT and the stirring was continued overnight. The reaction mixture was then cooled to −20° C., quenched by addition of methanol (20 mL) and volatiles were removed under reduced pressure. The residue was partitioned between water (50 mL) and ethyl acetate (100 mL). The organic phase was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The crude product was recrystallized from methanol to afford the title compound (4.6 g, 65%).

reactant | 2-(2,3-dichloro-benzenesulfonylamino)-5-methoxy-benzenesulfonamide | 11.68 mmol, 4.8 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C13H12Cl2N2O5S2
reactant | BBr3 | 60 mmol, 1M, 60 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,3-Dichloro-benzenesulfonylamino)-5-hydroxy-benzenesulfonamide | 4.6 g, 65% | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C=C1)O)S(=O)(=O)N | C12H10Cl2N2O5S2
